US07964608B2
1-Cyclopentyl-7-methoxy-3-(4-methyl-thiophen-2-yl)-1H-pyrimido[5,4-c]quinoline-2,4-dione (26 mg) was prepared from 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester (0.1 mmol) and 2-isocyanato-4-methyl-thiophene (0.5 mmol) following general procedure C. LCMS: m/z 408 [M+1]+. 1H NMR (400 MHz, CDCl3): δ 9.44 (s, 1H), 8.32 (s, 1H), 7.80 (d, 1H), 7.63 (t, 1H), 7.28 (d, 1H), 6.89 (s, 1H), 5.05 (p, 1H), 4.10 (s, 3H), 3.02 (s, 3H), 2.29 (m, 2H), 2.11-2.19 (m, 4H), 1.25 (m, 2H) ppm.

reactant | 4-cyclopentylamino-8-methoxy-quinoline-3-carboxylic acid ethyl ester | 0.1 mmol | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)OC | C18H22N2O3
reactant | 2-isocyanato-4-methyl-thiophene | 0.5 mmol | N(=C=O)C=1SC=C(C1)C | C6H5NOS
product | 1-Cyclopentyl-7-methoxy-3-(4-methyl-thiophen-2-yl)-1H-pyrimido[5,4-c]quinoline-2,4-dione | 26 mg | C1(CCCC1)N1C(N(C(C=2C=NC=3C(=CC=CC3C21)OC)=O)C=2SC=C(C2)C)=O | C22H21N3O3S
